US09023849B2
2-[1-(2,3-Difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one
44 mg (0.05 mmol) of 2-[1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one were dissolved in 8 ml of absolute DMF, 11 mg (0.01 mmol) of 10% palladium on charcoal were added and hydrogenation was effected under standard hydrogen pressure for 4 h. The reaction mixture was filtered and purified by means of preparative HPLC (eluent: acetonitrile/water, gradient 20:80→100:0). 6 mg of the target compound were obtained (purity 81%; 21% of theory).

reactant | 2-[1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 0.05 mmol, 44 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C=3N=C(C2=C(N3)NC(C2(C)C)=O)I)C=CC=C1F | C21H16F2IN7O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
catalyst | palladium on charcoal | 0.01 mmol, 11 mg | [Pd] | Pd
product | 2-[1-(2,3-Difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 6 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C=3N=CC2=C(N3)NC(C2(C)C)=O)C=CC=C1F | C21H17F2N7O
